US04221814
A solution of 3 g of ethyl 2-(4-ethoxycarbonylbenzamido)-4-aminobenzoate in 30 ml of pyridine was mixed with 5 g of propionic anhydride, and the mixture was heated at 50° to 60° C. for a period of 2 hours. After cooling, 200 ml of water was gradually added to the reaction mixture, the precipitating crystal was filtered, and recrystallized from a solvent mixture of ethanol and water to thereby produce 2.2 g of ethyl 2-(4-ethoxycarbonylbenzamido)-4-propionamidobenzoate having a melting point in the range of from 172 to 173° C.

reactant | ethyl 2-(4-ethoxycarbonylbenzamido)-4-aminobenzoate | 3 g | C(C)OC(=O)C1=CC=C(C(=O)NC2=C(C(=O)OCC)C=CC(=C2)N)C=C1 | C19H20N2O5
reactant | propionic anhydride | 5 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | water | 200 ml | O | H2O
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 2-(4-ethoxycarbonylbenzamido)-4-propionamidobenzoate | 2.2 g | C(C)OC(=O)C1=CC=C(C(=O)NC2=C(C(=O)OCC)C=CC(=C2)NC(CC)=O)C=C1 | C22H24N2O6
